US04265815
(A) (11β)-9-Fluoro-11-hydroxy-16-[(4-methylphenyl)thio]-17-(methylthio)androsta-1,4,16-trien-3-one
A solution of 900 mg of 9-fluoro-11β-hydroxy-17-(methylthio)androsta-1,4,16-trien-3-one in 900 ml of dichloromethane is stirred with 500 mg of p-toluenesulfenyl chloride at room temperature under a nitrogen atmosphere for about 16 hours. The resulting solution is washed with water, dried over anhydrous Na2SO4 and evaporated in vacuo to give 1.3 g of a solid, which is dissolved in chloroform-hexane (3:2) and chromatographed on a 50 g-silica gel column. Elution with chloroform-hexane (3:2) gives 930 mg of a tlc-homogenous material. Two crystallizations from acetone-hexane give 400 mg of an analytical specimen of the title compound, melting point 205°-206° C.

reactant | 9-fluoro-11β-hydroxy-17-(methylthio)androsta-1,4,16-trien-3-one | 900 mg | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC=C([C@@]1(C)C[C@@H]2O)SC)=O)C | C20H25FO2S
reactant | p-toluenesulfenyl chloride | 500 mg | C1(=CC=C(C=C1)SCl)C | C7H7ClS
solvent | dichloromethane | 900 ml | ClCCl | CH2Cl2
product | (11β)-9-Fluoro-11-hydroxy-16-[(4-methylphenyl)thio]-17-(methylthio)androsta-1,4,16-trien-3-one | 1.3 g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC(=C([C@@]1(C)C[C@@H]2O)SC)SC2=CC=C(C=C2)C)=O)C | C27H31FO2S2
